US08217060B2
A solution of (E)-N-(3-nitro-2′-trifluoromethyl-biphenyl-4-yl)-3-(tetrahydro-pyran-4-yl)-acrylamide (82.0 mg, 0.195 mmol) in MeOH (5 mL) and water (5 mL) was treated with NH4Cl (104 mg, 1.95 mmol) and Fe powder (54.5 mg, 0.975 mmol) and heated to 50° C. for 1 h. The cooled mixture was treated with saturated aqueous NaHCO3 (30 mL) and extracted with EtOAc (2×30 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo to yield (E)-N-(3-amino-2′-trifluoromethyl-biphenyl-4-yl)-3-(tetrahydro-pyran-4-yl)-acrylamide as a colorless glassy solid.

reactant | (E)-N-(3-nitro-2′-trifluoromethyl-biphenyl-4-yl)-3-(tetrahydro-pyran-4-yl)-acrylamide | 0.195 mmol, 82.0 mg | [N+](=O)([O-])C=1C=C(C=CC1NC(\C=C\C1CCOCC1)=O)C1=C(C=CC=C1)C(F)(F)F | C21H19F3N2O4
reactant | NH4Cl | 1.95 mmol, 104 mg | [NH4+].[Cl-]
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
catalyst | Fe | 0.975 mmol, 54.5 mg | [Fe] | Fe
product | (E)-N-(3-amino-2′-trifluoromethyl-biphenyl-4-yl)-3-(tetrahydro-pyran-4-yl)-acrylamide | NC=1C=C(C=CC1NC(\C=C\C1CCOCC1)=O)C1=C(C=CC=C1)C(F)(F)F | C21H21F3N2O2
